US07238716B2
To a mixture of 4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]benzaldehyde (6.00 g), tetrahydrofuran (30 ml) and methanol (20 mL) was added sodium borohydride (0.38 g) under ice-cooling, and the mixture was stirred at room temperature for 30 min. Dilute hydrochloric acid and water were added to acidify the reaction mixture, and the precipitated solid was collected by filtration, and dried with air to give crystals (5.68 g, 94%) of [4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]phenyl]methanol. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 94-95° C.

reactant | 4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]benzaldehyde | 6.00 g | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(C=O)C=C1 | C18H15NO2S
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.38 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | [4-[(5-methyl-2-phenyl-4-thiazolyl)methoxy]phenyl]methanol | 5.68 g, 94% | CC1=C(N=C(S1)C1=CC=CC=C1)COC1=CC=C(C=C1)CO | C18H17NO2S
